US08071592B2
(f) Racemic 1,1-dimethylethyl {[4-hydroxy-3-piperidinyl]methyl}carbamate
A solution of 1,1-dimethylethyl {[4-hydroxy-1-(phenylmethyl)-3-piperidinyl]methyl}carbamate (3.7 g, 11.56 mmol) in methanol (70 ml) was stirred under hydrogen at room temperature with 20% palladium hydroxide/carbon (moist, 0.7 g) overnight. After filtration through kieselguhr, the methanol was evaporated to afford the desired product (2.65 g, 100%).

reactant | 1,1-dimethylethyl {[4-hydroxy-1-(phenylmethyl)-3-piperidinyl]methyl}carbamate | 11.56 mmol, 3.7 g | OC1C(CN(CC1)CC1=CC=CC=C1)CNC(OC(C)(C)C)=O | C18H28N2O3
solvent | methanol | 70 ml | CO | CH4O
catalyst | palladium hydroxide/carbon | 0.7 g | [OH-].[OH-].[Pd+2]
product | Racemic 1,1-dimethylethyl {[4-hydroxy-3-piperidinyl]methyl}carbamate | 2.65 g, 100% | OC1C(CNCC1)CNC(OC(C)(C)C)=O | C11H22N2O3
